US06124323
4-(4-Chlorobenzyl)-1-(2-(2-thioxobenzimidazol-5-oxy)ethyl)piperidine
From a mixture of 1-[2-(3,4-diaminophenoxy)ethyl]-4-(4-chlorobenzyl)piperidine (1.30 g, 3.67 mmol), KOH (240 mg, 4.28 mmol) and CS2 (250 μL, 4.16 mmol) in EtOH (5 mL) and water (0.8 mL) was obtained 1.28 g (88%) of the title compound as a foam solid. 1H NMR (CDCl3): 1.38-1.68 (m, 5H), 2.09-2.17 (m, 2H), 2.481 (d, 2H, J=6.5), 2.851 (t, 2H, J=4.5), 3.18-3.21 (m, 2H), 4.142 (t, 2H, J=4.5), 6.561 (bs, 1H), 6.596 (d, 1H, J=8.5), 6.936 (d, 1H, J=8.5), 7.036 (d, 2H, J=8), 7.029 (d, 2H, J=8). 1H NMR (DMSO-d6): 12.360 (s, 1H), 12.402 (s, 1H). The hydrochloride, mp. 291-3° C. Analysis, Calcd. for C21H25ClN3OS: C 57.53, H 5.75, N 9.58; Found: C 57.82, H 5.65, N 9.44.

reactant | 1-[2-(3,4-diaminophenoxy)ethyl]-4-(4-chlorobenzyl)piperidine | 3.67 mmol, 1.30 g | NC=1C=C(OCCN2CCC(CC2)CC2=CC=C(C=C2)Cl)C=CC1N | C20H26ClN3O
reactant | KOH | 4.28 mmol, 240 mg | [OH-].[K+]
reactant | CS2 | 4.16 mmol, 250 μL | C(=S)=S | CS2
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | water | 0.8 mL | O | H2O
product | 4-(4-Chlorobenzyl)-1-(2-(2-thioxobenzimidazol-5-oxy)ethyl)piperidine | 1.28 g, 88% | ClC1=CC=C(CC2CCN(CC2)CCOC2=CC=3C(=NC(N3)=S)C=C2)C=C1 | C21H22ClN3OS
